US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[2-(phenyloxy)ethyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (30.8 mg, 0.110 mmol) and 2-bromoethyl phenyl ether (35.7 mg, 0.177 mmol) in 2 CH3CN/3CHCl3 (2.5 mL) were reacted to give the desired product (33.1 mg, 62%). EI-MS m/z 400 (M+) Rt (1.86 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.110 mmol, 30.8 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 2-bromoethyl phenyl ether | 0.177 mmol, 35.7 mg | C1(=CC=CC=C1)OCCBr | C8H9BrO
solvent | CH3CN | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[2-(phenyloxy)ethyl]-1-azoniabicyclo[2.2.1]heptane bromide | 33.1 mg, 62% | [Br-].OC(C12CC[N+](CC1)(C2)CCOC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C27H30NO2.BrH/c29-27(23-10-4-1-5-11-23,24-12-6-2-7-13-24)26-16-18-28(22-26,19-17-26)20-21-30-25-14-8-3-9-15-25;/h1-15,29H,16-22H2;1H/q+1;/p-1
